### PR TITLE
[Merged by Bors] - feat: conductor of Dirichlet character

### PR DESCRIPTION
**Pull request by mo271**
Co-authored-by: Michael Stoll <Michael.Stoll@uni-bayreuth.de>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 1]
```diff
@@ -74,4 +74,47 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
     changeLevel (dvd_trans hm hd) χ = changeLevel hd (changeLevel hm χ) := by
   simp [changeLevel_def, MonoidHom.comp_assoc, ZMod.unitsMap_comp]
 
+lemma unitsMap_comp {d m : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:77]: This is already in `Data.ZMod.Units`.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -74,4 +74,47 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+    (ZMod.unitsMap hm).comp (ZMod.unitsMap hd) = ZMod.unitsMap (dvd_trans hm hd) := by
+  simp only [ZMod.unitsMap_def]
+  rw [← Units.map_comp]
+  exact congr_arg Units.map <| congr_arg RingHom.toMonoidHom <| ZMod.castHom_comp hm hd
+
+lemma ofUnitHom_eq {m : ℕ} (hm : n ∣ m) (a : Units (ZMod m)) :
+    (changeLevel hm χ) a = χ a := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:84]: The name of this lemma should refer to `changeLevel` instead of `ofUnitHom`.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 3]
```diff
@@ -74,4 +74,47 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+  simpa [changeLevel_def, Function.comp_apply, MonoidHom.coe_comp] using
+      toUnitHom_eq_char' _ <| ZMod.IsUnit_cast_of_dvd hm a
+
+/-- χ₀ of level d factors through χ of level n if d ∣ n and χ₀ = χ ∘ (ZMod n → ZMod d). -/
+structure FactorsThrough (d : ℕ) : Prop :=
+  /-- `d` divides `n`, so `d` is a potential level through which `χ` factors. -/
+  (dvd : d ∣ n)
+  /-- A character `χ₀` of level `d` such that `χ` is just the change in level of `χ₀` to `n`. -/
+  (indChar : ∃ χ₀ : DirichletCharacter R d, χ = changeLevel dvd χ₀)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:93]: Maybe split this into `χ₀ : DirichletCharacter R d` and `eq_changeLevel : χ = changeLevel dvd χ₀`?
I assume that later on, you will want to use the actual lower-level character and not just its existence; then this would save you deconstructing the existence statement.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 4]
```diff
@@ -74,4 +74,47 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+
+namespace FactorsThrough
+lemma spec {d : ℕ} (h : FactorsThrough χ d) :
+    χ = changeLevel h.dvd (Classical.choose (h.indChar)) := Classical.choose_spec (h.indChar)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:97]: For example, this would be
```lean
    χ = changeLevel h.dvd h.χ₀ := h.eq_changeLevel
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 5]
```diff
@@ -74,4 +74,47 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+end FactorsThrough
+
+/-- The set of natural numbers for which a Dirichlet character is periodic. -/
+def conductorSet : Set ℕ := {x : ℕ | FactorsThrough χ x}
+
+-- cant use dot notation for factors_through and conductor set
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:103]:
```lean
-- cant use dot notation for FactorsThrough and conductor set
```

File: Mathlib/Data/ZMod/Units.lean [hunk 6]
```diff
@@ -30,4 +30,10 @@ lemma unitsMap_comp {d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
 lemma unitsMap_self (n : ℕ) : unitsMap (dvd_refl n) = MonoidHom.id _ := by
   simp [unitsMap, castHom_self]
 
+lemma IsUnit_cast_of_dvd (hm : n ∣ m) (a : Units (ZMod m)) :  IsUnit ((a : ZMod m) : ZMod n) := by
```
Comment (riccardobrasca) [inline Mathlib/Data/ZMod/Units.lean:33]:
```suggestion
lemma IsUnit.cast_of_dvd (hm : n ∣ m) (a : Units (ZMod m)) :  IsUnit ((a : ZMod m) : ZMod n) := by
```
Does dot notation work with this name?

Comment (MichaelStollBayreuth) [reply Mathlib/Data/ZMod/Units.lean:33]: No, because there is no argument of type `IsUnit`.

Comment (riccardobrasca) [reply Mathlib/Data/ZMod/Units.lean:33]: Oh, I misread `Units`, I am sorry!

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 7]
```diff
@@ -74,4 +74,47 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+lemma mem_conductorSet_iff {x : ℕ} : x ∈ conductorSet χ ↔ FactorsThrough χ x := Iff.refl _
+
+lemma level_mem_conductorSet : n ∈ conductorSet χ :=
+  (mem_conductorSet_iff _).2
+    { dvd := dvd_rfl,
+      indChar := ⟨χ, (changeLevel_self χ).symm⟩, }
+
+lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := hx.1
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:111]: Maybe `hx.dvd` is a bit clearer than `hx.1`.

File: Mathlib/Data/ZMod/Units.lean [hunk 8]
```diff
@@ -30,4 +30,10 @@ lemma unitsMap_comp {d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+    rw [←@ZMod.castHom_apply _ _ _ n _ hm (a : ZMod m)]
+    change IsUnit ((ZMod.castHom hm (ZMod n) : ZMod m →* ZMod n) ↑a)
+    rw [←Units.coe_map (ZMod.castHom hm (ZMod n) : ZMod m →* ZMod n) a]
+    apply Units.isUnit
```
Comment (MichaelStollBayreuth) [inline Mathlib/Data/ZMod/Units.lean:37]:
```lean
lemma IsUnit_cast_of_dvd (hm : n ∣ m) (a : Units (ZMod m)) :  IsUnit ((a : ZMod m) : ZMod n) :=
  Units.isUnit (unitsMap hm a)
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 1 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: removed it here...

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 2 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: now I propose `changeLevel_eq_cast_of_dvd`. Might it also make change to put it into a `ChangeLevel` namespace?

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 5 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: done

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 7 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: done

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: I tried splitting it like this first:
```lean
/-- χ₀ of level d factors through χ of level n if d ∣ n and χ₀ = χ ∘ (ZMod n → ZMod d). -/
structure FactorsThrough (d : ℕ) : Prop :=
  /-- `d` divides `n`, so `d` is a potential level through which `χ` factors. -/
  (dvd : d ∣ n)
  /-- A character `χ₀` of level `d` ... -/
  (χ₀ : DirichletCharacter R d)
  /-- ... such that `χ` is just the change in level of `χ₀` to `n`. -/
  (eq_changeLevel : χ = changeLevel dvd χ₀)
```
but I got:
```
(kernel) failed to generate projection 'DirichletCharacter.FactorsThrough.χ₀' for 'DirichletCharacter.FactorsThrough', type is an inductive predicate, but field is not a proposition
```
but that didn't work, probably not good to mix data and Proposition.
So I did a slightly different approach, see the current state.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 4 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: it is now

File: Mathlib/Data/ZMod/Units.lean (hunk 8 above)
Comment (mo271) [reply Mathlib/Data/ZMod/Units.lean]: much nicer!

**Comment by mo271** [comment]
Thanks for the review, @MichaelStollBayreuth. Please see if this way of having the FactorsThrough structure makes more sense...

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 9]
```diff
@@ -74,4 +74,46 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+
+
+lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := by
+  cases' hx with χ₀ hx
+  exact hx.dvd
+
+
+lemma FactorsThrough_of_mem_conductorSet {x : ℕ} (hx : x ∈ conductorSet χ) :
+    ∃ (χ₀ : DirichletCharacter R x), FactorsThrough χ x χ₀ :=
+  hx
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:113]: Ah, the problem is "can only eliminate into Prop". One possibility is as follows.
```lean
/-- χ₀ of level d factors through χ of level n if d ∣ n and χ₀ = χ ∘ (ZMod n → ZMod d). -/
def FactorsThrough (d : ℕ) : Prop := ∃ (h : d ∣ n) (χ₀ : DirichletCharacter R d), χ = changeLevel h χ₀

namespace FactorsThrough

/-- The fact that `d` divides `n` when `χ` factors through a Dirichlet character at level `d` -/
def dvd {d : ℕ} (h : FactorsThrough χ d) : d ∣ n := h.1

/-- The Dirichlet character at level `d` through which `χ` factors -/
noncomputable
def χ₀ {d : ℕ} (h : FactorsThrough χ d) : DirichletCharacter R d := Classical.choose h.2

/-- The fact that `χ` factors through `χ₀` of level `d` -/
noncomputable
def eq_changeLevel {d : ℕ} (h : FactorsThrough χ d) : χ = changeLevel h.dvd h.χ₀ :=
  Classical.choose_spec h.2

lemma spec {d : ℕ} (h : FactorsThrough χ d) : χ = changeLevel h.dvd h.χ₀ := h.eq_changeLevel

lemma same_level : FactorsThrough χ n := ⟨dvd_refl n, χ, (changeLevel_self χ).symm⟩

end FactorsThrough

/-- The set of natural numbers for which a Dirichlet character is periodic. -/
def conductorSet : Set ℕ := {x : ℕ | FactorsThrough χ x}

lemma mem_conductorSet_iff {x : ℕ} : x ∈ conductorSet χ ↔ FactorsThrough χ x := Iff.refl _

lemma level_mem_conductorSet : n ∈ conductorSet χ := FactorsThrough.same_level χ

lemma mem_conductorSet_dvd {x : ℕ} (hx : x ∈ conductorSet χ) : x ∣ n := hx.dvd
```
This hides the classical choice in the API definitions of `χ₀` and `eq_changeLevel`.
The last lemma `FactorsThrough_of_mem_conductorSet` should be unnecessary, since it is essentially just one direction of `mem_conductorSet_iff`.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: Not really; there is no argument whose type is `changeLevel ...`.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 10]
```diff
@@ -74,4 +74,46 @@ lemma changeLevel_trans {m d : ℕ} (hm : n ∣ m) (hd : m ∣ d) :
...
+
+/-- The minimum natural number n for which a Dirichlet character is periodic.
+  The Dirichlet character χ can then alternatively be reformulated on ℤ/nℤ. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:116]:
```lean
The Dirichlet character `χ` can then alternatively be reformulated on `ℤ/nℤ`. -/
```

Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean:116]: done

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 9 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: I like this approach very much, thanks @MichaelStollBayreuth!

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 3 above)
Comment (mo271) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: solved by the approach below

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM

**Comment by MichaelStollBayreuth** [comment]
I restarted the "build mathlib" job; the previous one seemed to have internet connection problems at "building counterexamples".

**Comment by riccardobrasca** [comment]
There is a linter issue, but LGTM otherwise, thanks!

bors d+

**Comment by MichaelStollBayreuth** [comment]
> There is a linter issue, but LGTM otherwise, thanks!

Sorry, my mistake. Just replace the two `def`s by `lemma`.
